US06747023B1
1-tert-Butoxycarbonyl-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine-2-carboxylic acid
In tetrahydrofuran (40 ml), 1-tert-butoxycarbonyl-4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-ethoxycarbonylpiperazine (23.0 g) was dissolved, followed by the addition of ethanol (40 ml) and a 3N aqueous sodium hydroxide solution (30 ml). The resulting mixture was stirred at room temperature for 3 hours. To the reaction mixture, 1N hydrochloric acid was added to make it acidic and then ethyl acetate was added to separate the organic layer. The organic layer was dried over anhydrous sodium sulfate. The solid precipitated by distilling off the solvent under reduced pressure was collected by filtration, whereby the title compound (23.8 g, quant.) was obtained as a colorless solid.

reactant | 1-tert-butoxycarbonyl-4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-ethoxycarbonylpiperazine | 23.0 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)C(=O)OCC | C22H27ClN2O6S
reactant | ethanol | 40 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 3N, 30 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-tert-Butoxycarbonyl-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine-2-carboxylic acid | C(C)(C)(C)OC(=O)N1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)C(=O)O | C20H23ClN2O6S
